US06432993B1
(21-2) 5-{4-[6-(4-Hydroxy-2,3-dimethylphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride
A mixture of t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-hydroxy-2,3-dimethylphenoxy)phenyl}-N-methylcarbamate (2.35 g) and 4N hydrogen chloride/dioxane (20 ml) was stirred at ambient temperature for 44 hours. The solvent of the reaction mixture was evaporated to dryness. To the residue was added ethyl acetate and insoluble product was collected by filtration and washed with ethyl acetate to give the title compound (1.82 g).

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-hydroxy-2,3-dimethylphenoxy)phenyl}-N-methylcarbamate | 2.35 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=C(C(=C(C=C2)O)C)C)N(C(OC(C)(C)C)=O)C)C=C1 | C32H35N3O8S
reactant | hydrogen chloride dioxane | 4N, 20 ml | Cl.O1CCOCC1
product | 5-{4-[6-(4-Hydroxy-2,3-dimethylphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride | 1.82 g | Cl.OC1=C(C(=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1)C)C | InChI=1S/C27H25N3O5S.ClH/c1-15-16(2)23(11-10-22(15)31)35-19-8-9-20-21(13-19)30(3)25(28-20)14-34-18-6-4-17(5-7-18)12-24-26(32)29-27(33)36-24;/h4-11,13,24,31H,12,14H2,1-3H3,(H,29,32,33);1H
